US07968568B2
(7-Chloro-quinazolin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(7-chloro-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (4.33 g, 11.9 mmol) in dioxane (35 mL) and conc. HCl (10 mL) was stirred at rt for 18 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ESP): 263.0 [M+H]+.

reactant | 4-(7-chloro-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 11.9 mmol, 4.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=NC2=CC(=CC=C12)Cl | C18H23ClN4O2
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 10 mL | Cl | ClH
product | (7-Chloro-quinazolin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=CC=C2C(=NC=NC2=C1)NC1CCNCC1 | InChI=1S/C13H15ClN4.2ClH/c14-9-1-2-11-12(7-9)16-8-17-13(11)18-10-3-5-15-6-4-10;;/h1-2,7-8,10,15H,3-6H2,(H,16,17,18);2*1H
